US03983138
To astirred solution of 20.7 g. (0.10 mole) of benzylsuccinamate in 150 ml. ethyl acetate at 25°C. is added 3.0 g. of paraformaldehyde and 1 ml. of a 20% (by weight) solution of ethanolic potassium hydroxide. After stirring at 25°C. for 20 hours, hexane is added to the cloudpoint and the mixture is cooled at 5°C. for 24 hours. Solvents are decanted off and the residue is washed with 25 ml. hexane to give benzyl N-hydroxymethylsuccinamate.

reactant | benzylsuccinamate | 0.10 mole | C(C1=CC=CC=C1)OC(CCC(=O)N)=O | C11H13NO3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | paraformaldehyde | C=O | CH2O
reactant | potassium hydroxide | [OH-].[K+]
solvent | hexane | CCCCCC | C6H14
product | benzyl N-hydroxymethylsuccinamate | OCNC(CCC(=O)OCC1=CC=CC=C1)=O | C12H15NO4
